US07244726B2
4-(4-Hydroxybenzoyl)piperidine (D20)
A solution of 4-(4-methoxybenzoyl)piperidine hydrochloride (3.0 g, 11.7 mmol), in 48% HBr (aq) (16 mL), and acetic acid (16 mL) was heated at reflux for 48 h. The reaction mixture was evaporated to dryness in vacuo to give an off-white solid which was suspended in saturated NaHCO3 (aq). The resulting precipitate was collected by filtration, washed with water, and dried to give the title compound (1.76 g, 73%) as an off-white solid.

reactant | 4-(4-methoxybenzoyl)piperidine hydrochloride | 11.7 mmol, 3.0 g | Cl.COC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | HBr | 16 mL | Br | BrH
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(4-Hydroxybenzoyl)piperidine | 1.76 g, 73% | OC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H15NO2
